US06433174B1
Synthesis of Ethyl 3,4-Dichlorophenylacetate
90.05 g of 3,4-dichlorophenylacetic acid was dissolved in 150 ml of ethanol, and the solution was treated according to the procedure of Example 5 to obtain 101.30 g (90.0% yield) of the title substance.

reactant | 3,4-dichlorophenylacetic acid | 90.05 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 3,4-Dichlorophenylacetate | 90.0% yield | ClC=1C=C(C=CC1Cl)CC(=O)OCC | C10H10Cl2O2
